US06498159B1
6.47 g of tert-butyl 3-(benzyloxy)-1-oxa-8-azaspiro[4.5]decane-8-carboxylate was dissolved in 100 ml tetrahydrofuran, 1.3 g palladium carbon was added thereto, and the mixture was stirred overnight in a hydrogen atmosphere. The catalyst was filtered off from the reaction solution, 1.3 g of palladium carbon was added thereto, and the solution was stirred overnight in a hydrogen atmosphere. The catalyst was filtered off from the reaction solution, 2.6 g of palladium carbon was added thereto, and the solution was stirred overnight in a hydrogen atmosphere at 4.2 atmospheric pressure. The catalyst was filtered off from the reaction solution, the solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (ethyl acetate/methanol) to give 4.27 g of tert-butyl 3-hydroxy-1-oxa-8-azaspiro[4.5]decane-8-carboxylate.

reactant | tert-butyl 3-(benzyloxy)-1-oxa-8-azaspiro[4.5]decane-8-carboxylate | 6.47 g | C(C1=CC=CC=C1)OC1COC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C20H29NO4
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 1.3 g | [C].[Pd]
product | tert-butyl 3-hydroxy-1-oxa-8-azaspiro[4.5]decane-8-carboxylate | 4.27 g | OC1COC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C13H23NO4
